### PR TITLE
feat(interpreter): add lemmas about `VariableState.setResultValues?` and `RuntimeValue.Conforms`

### PR DESCRIPTION
**Pull request by math-fehr**
Also, change `VariableState.setResultValues?` so it checks that the arrays it get as input have the same sizes.

### CODE REVIEW

File: Veir/Interpreter/Lemmas.lean [hunk 1]
```diff
@@ -219,6 +240,51 @@ theorem VariableState.setResultValues?_setResultValues?_self :
...
+/-- `setResultValues?` succeeds iff every result value conforms to its result type. -/
+theorem VariableState.setResultValues?_isSome_iff_conforms
+    (hsize : op.getNumResults! ctx.raw = resValues.size) :
+    (∃ v, varState.setResultValues? op resValues inBounds = some v) ↔
+    RuntimeValue.ArrayConforms resValues (op.getResultTypes! ctx.raw) := by
+  simp only [setResultValues?, hsize, ↓reduceDIte]
+  rw [VariableState.setResultValues?_loop_isSome_iff_conforms]
+  simp only [Array.take_eq_extract]
+  rw [Array.extract_eq_self_of_le (by grind)]
+  rw [Array.extract_eq_self_of_le (by grind)]
```
Comment (luisacicolini) [inline Veir/Interpreter/Lemmas.lean]:
```suggestion
  rw [Array.extract_eq_self_of_le (by grind), Array.extract_eq_self_of_le (by grind)]
```
maybe?

File: Veir/Interpreter/Basic.lean [hunk 2]
```diff
@@ -105,6 +105,33 @@ theorem Conforms.llvmPointerType :
...
+    (ArrayConforms (source.take (n + 1)) (target.take (n + 1)) ↔
+    (ArrayConforms (source.take n) (target.take n) ∧ (source[n]!).Conforms target[n]!)) := by
+  simp only [ArrayConforms]
+  intro hsize hn
+  constructor
+  · rintro ⟨_, h⟩
+    constructor
+    · constructor; grind
+      intro i hi
+      have := h i (by grind)
```
Comment (ineol) [inline Veir/Interpreter/Basic.lean]: does `grind [h i]` or `grind [h i (by grind)]` work?

File: Veir/Interpreter/Lemmas.lean [hunk 3]
```diff
@@ -11,18 +11,33 @@ variable {state state' : InterpreterState ctx}
...
 @[grind =]
-theorem Variable.setVar?_eq_some_setVar (h : val.Conforms (var.getType! ctx.raw)) :
+theorem VariableState.setVar?_eq_some_setVar (h : val.Conforms (var.getType! ctx.raw)) :
     varState.setVar? var val inBounds = some (varState.setVar var val h inBounds) := by
   grind [VariableState.setVar?, VariableState.setVar]
 
+/-- `setVar?` succeeds iff the value conforms to the variable's type -/
+theorem VariableState.setVar?_eq_none_iff :
+    (∃ varState', varState.setVar? var val inBounds = some varState') ↔
+    val.Conforms (var.getType! ctx.raw) := by
```
Comment (ineol) [inline Veir/Interpreter/Lemmas.lean]: i feel like the opposite direction is more natural?

File: Veir/Interpreter/Lemmas.lean [hunk 4]
```diff
@@ -219,6 +240,51 @@ theorem VariableState.setResultValues?_setResultValues?_self :
     ext
     grind [VariableState.getVar?_setResultValues?]
 
+/-! ## Conformance and VariableState -/
+
+/-- `setResultValues?_loop` succeeds iff every result value it binds conforms to its result type. -/
+theorem VariableState.setResultValues?_loop_isSome_iff_conforms :
+    (∃ v, varState.setResultValues?_loop op resValues idx inBounds hi hsize = some v) ↔
+    RuntimeValue.ArrayConforms (resValues.take idx) ((op.getResultTypes! ctx.raw).take idx) := by
+  fun_induction VariableState.setResultValues?_loop
```
Comment (ineol) [inline Veir/Interpreter/Lemmas.lean]: also the other direction

File: Veir/Interpreter/Lemmas.lean (hunk 1 above)
Comment (ineol) [reply Veir/Interpreter/Lemmas.lean]: or `repeat rw [Array.extract_eq_self_of_le (by grind)]`

**Review by ineol — APPROVED** [review]
LGTM, just small style nits

File: Veir/Interpreter/Basic.lean (hunk 2 above)
Comment (math-fehr) [reply Veir/Interpreter/Basic.lean]: it does!
